US07718679B2
To a stirred suspension of 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one (259 mg; CAS 536747-52-1, prepared according to C. F. Bigge et al., patent application WO 2003045912) at r.t. in dioxane (4 ml) under an argon atmosphere was added trimethylaluminium (0.63 ml; 2 M solution in heptane)-->foaming. The mixture was stirred at r.t. for 2 h. A solution of 3-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester (100 mg) in dioxane (4 ml) was then added. The mixture was heated to 100° C. over night. The mixture was cooled to r.t. and H2O (0.8 ml) was added (-->bubbling). After 15 min stirring, MgSO4 was added and stirring was continued for another 15 min. The mixture was then filtered and the cake was washed with dichloromethane. The filtrate was concentrated. The crude product was purified by column chromatography (silica gel; gradient: CH2Cl2->CH2Cl2/MeOH 9:1) to give 3-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-[1,2,4]oxadiazole-5-carboxylic acid[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl]-amide as light yellow solid. 474.1 ([M+H]+)

reactant | 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one | 259 mg | NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C11H9FN2O
reactant | trimethylaluminium | 2 M, 0.63 ml | C[Al](C)C
reactant | 3-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester | 100 mg | C(C)OC(=O)C1=NC(=NO1)CNC(=O)C=1SC(=CC1)Cl | C11H10ClN3O4S
reactant | H2O | 0.8 ml | O | H2O
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 3-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-[1,2,4]oxadiazole-5-carboxylic acid[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl]-amide | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)C1=NC(=NO1)CNC(=O)C=1SC(=CC1)Cl | C20H13ClFN5O4S
